US06800629B2
In 86 mL of dimethyl sulfoxide was dissolved 4.3 g of N-(5-bromo-3-cyano-2-pyrazinyl)benzamide. After adding 8.3 g of potassium fluoride, the mixture thus obtained was stirred at 110-115° C. for one hour. The reaction mixture was returned to room temperature, a mixture of 100 mL of ethyl acetate and 200 mL of water was added, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride, treated with active charcoal and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: toluene:ethyl acetate=5:1] to obtain 0.47 g of N-(3-cyano-5-fluoro-2-pyrazinyl)benzamide as a white-colored solid product.

reactant | N-(5-bromo-3-cyano-2-pyrazinyl)benzamide | 4.3 g | BrC=1N=C(C(=NC1)NC(C1=CC=CC=C1)=O)C#N | C12H7BrN4O
reactant | potassium fluoride | 8.3 g | [F-].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 200 mL | O | H2O
solvent | dimethyl sulfoxide | 86 mL | CS(=O)C | C2H6OS
product | N-(3-cyano-5-fluoro-2-pyrazinyl)benzamide | 0.47 g | C(#N)C=1C(=NC=C(N1)F)NC(C1=CC=CC=C1)=O | C12H7FN4O
